US07432289B2
N-(4′-{[(Cyclopropylmethyl)amino]carbonyl}6-methyl -1,1′-biphenyl-3-yl)-2-(fur-2-yl)acetamide was prepared from 5′-amino-N-(cyclopropylmethyl)-2′-methyl-1,1′-biphenyl-4- carboxamide and fur-2-ylacetic acid using method D. NMR; δH [2H6]—DMSO 10.17,(1H, s), 8.61,(1H, t), 7.91,(2H, d), 7.55,(1H, m), 7.50-7.48,(2H, m), 7.40,(2H, d), 7.23,(1H, d), 6.38,(1H, m), 6.25,(1H, d), 3.70,(2H, s), 3.16,(2H, t), 2.16,(3H, s), 1.04,(2H, m), 0.42,(2H, m). LCMS: retention time 3.26 min, MH+389.

reactant | 5′-amino-N-(cyclopropylmethyl)-2′-methyl-1,1′-biphenyl-4- carboxamide | NC=1C=CC(=C(C1)C1=CC=C(C=C1)C(=O)NCC1CC1)C | C18H20N2O
reactant | fur-2-ylacetic acid | O1C(=CC=C1)CC(=O)O | C6H6O3
product | N-(4′-{[(Cyclopropylmethyl)amino]carbonyl}6-methyl -1,1′-biphenyl-3-yl)-2-(fur-2-yl)acetamide | C1(CC1)CNC(=O)C1=CC=C(C=C1)C1=CC(=CC=C1C)NC(CC=1OC=CC1)=O | C24H24N2O3
